US05811459
A mixture of 4-[3-(2-benzyloxyphenyl)propyl]benzene carboxylic acid (8.39 g), diphenylphosphoryl azide (5.74 ml) and triethylamine (7.1 ml) in t-butanol (80 ml) was heated under reflux in an argon atmosphere for 16 hours. The reaction mixture was evaporated to dryness and the residue partitoned between ethyl acetate and water. The ethyl acetate extract was washed once each with 2N HCl, water, saturated aqueous sodium bicarbonate solution and brine (20 ml each time) and dried (MgSO4). The solvent was evaporated and the residue subjected to flash chromatography eluted with a mixture of dichloromethane:hexane (1:1 v/v) to give N t-butyloxycarbonyl-4-{3-(2-benzyloxyphenyl)propyl]benzene-amine 7.69 g m.p. 86°-8° C. which was used directly in the next step.

reactant | 4-[3-(2-benzyloxyphenyl)propyl]benzene carboxylic acid | 8.39 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C=C1)C(=O)O | C23H22O3
reactant | diphenylphosphoryl azide | 5.74 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 7.1 ml | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 80 ml | C(C)(C)(C)O | C4H10O
product | t-butyloxycarbonyl-4-{3-(2-benzyloxyphenyl)propyl]benzene-amine | 7.69 g | C(C)(C)(C)OC(=O)C1=C(C=CC(=C1)CCCC1=C(C=CC=C1)OCC1=CC=CC=C1)N | C27H31NO3
